US09034900B2
Step 5: N-[4-(2,4-difluorophenoxy)-3-(5-ethynyl-1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide
To a mixture of N-[4-(2,4-difluorophenoxy)-3-[1-methyl-6-oxo-5-(2-trimethylsilylethynyl)pyridin-3-yl]phenyl]ethanesulfonamide (100 mg, 0.19 mmol) in EtOH (10 mL) was added K2CO3 (157 mg, 1.14 mmol). The reaction was stirred at 20° C. for 12 h and poured into H2O (30 mL) and extracted with DCM (20 mL×3). The organic phase was washed with brine (20 mL), dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by prep-HPLC to afford the title compound (48 mg, 56%) as an off-white solid. 1H NMR (CDCl3, 400 MHz): δ 7.90 (d, J=2.4 Hz, 1H), 7.69 (d, J=2.4 Hz, 1H), 7.26 (d, J=2.8 Hz, 1H), 7.14-7.11 (m, 1H), 7.01-6.94 (m, 2H), 6.89-6.86 (m, 1H), 6.77 (d, J=8.8 Hz, 1H), 6.55 (s, 1H), 3.67 (s, 3H), 3.34 (s, 1H), 3.14 (q, J=7.2 Hz, 2H), 1.42 (t, J=7.2 Hz, 3H). LCMS (M+H)+=445.

reactant | N-[4-(2,4-difluorophenoxy)-3-[1-methyl-6-oxo-5-(2-trimethylsilylethynyl)pyridin-3-yl]phenyl]ethanesulfonamide | 0.19 mmol, 100 mg | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C(=C2)C#C[Si](C)(C)C)=O)C)C=CC(=C1)F | C25H26F2N2O4SSi
reactant | K2CO3 | 1.14 mmol, 157 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 30 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-[4-(2,4-difluorophenoxy)-3-(5-ethynyl-1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide | 48 mg, 56% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C(=C2)C#C)=O)C)C=CC(=C1)F | C22H18F2N2O4S
